US09284333B2
To a solution of 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester (Comp. No. 2a) (3.2 g, 16.4 mmol) in methanol (64 ml) was added water (64 ml) and sodium hydroxide (3.3 g, 82 mmol) and the mixture was stirred at reflux until complete conversion according to LC/MC (about 4 h). Approximately half of the solvents were evaporated in vacuo and the mixture was acidified with excess hydrochloric acid. The forming precipitate was filtered off, washed once with water and dried in vacuo to give 2.7 g (100%) of 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid as white solid. LC/MS (method 4): Rt=0.77 min; m/z=168.02 (M+H+).

reactant | 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CN2C1COCC2 | C10H13NO3
reactant | water | 64 ml | O | H2O
reactant | sodium hydroxide | 82 mmol, 3.3 g | [OH-].[Na+]
solvent | methanol | 64 ml | CO | CH4O
product | 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid | 2.7 g, 100% | C1OCCN2C1=C(C=C2)C(=O)O | C8H9NO3
